US07648979B2
a) 4-[2-(4-Methanesulfonyl-piperazine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester
The title compound was synthesized in analogy to example 47a), from 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid and 1-methanesulfonyl-piperazine hydrochloride. Off-white powder. MS (m/z): 534.4 (M+H)+.

reactant | 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1H-indole-2-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C20H25N3O5
reactant | 1-methanesulfonyl-piperazine hydrochloride | Cl.CS(=O)(=O)N1CCNCC1
product | 4-[2-(4-Methanesulfonyl-piperazine-1-carbonyl)-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)S(=O)(=O)C | C25H35N5O6S
